US03988348
Preparation of 1,2-Dimethyl-3-dimethylamino-5-phenylpyrazolium Iodide
3-Chloro-1,2-dimethyl-5-phenylpyrazolium iodide (10.0 g, 0.03 mole) is treated with sodium phenoxide (5.64 g, 0.06 mole) in dimethylformamide (100 ml) and the mixture heated and stirred at 110° C to 120° C for 21 hours. The dimethylformamide is then removed in vacuo, the residual oil dissolved in aqueous sodium bicarbonate solution and is extracted with ether. The ether fraction yields some brown oil which is not further examined. Next the aqueous sodium bicarbonate solution is extracted with chloroform (2×150 ml). Evaporation of the chloroform solution yields a white solid which is dried by azeotropic distillation of toluene. Crystallization from a chloroform/ether mixture yields a white solid, m.p. 181.5° C to 182° C.

reactant | 3-Chloro-1,2-dimethyl-5-phenylpyrazolium iodide | 0.03 mole, 10.0 g | [I-].ClC=1N([N+](=C(C1)C1=CC=CC=C1)C)C
reactant | sodium phenoxide | 0.06 mole, 5.64 g | [O-]C1=CC=CC=C1.[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1,2-Dimethyl-3-dimethylamino-5-phenylpyrazolium Iodide | [I-].C[N+]=1N(C(=CC1C1=CC=CC=C1)N(C)C)C | InChI=1S/C13H18N3.HI/c1-14(2)13-10-12(15(3)16(13)4)11-8-6-5-7-9-11;/h5-10H,1-4H3;1H/q+1;/p-1
